US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (1.2 g, 1.8 mmol), LiOH.H2O (1.5 g, 36 mmol), H2O (3 mL) and methanol (10 mL) was refluxed for 2 h. After cooled to room temperature, the solution was concentrated. The water phase was acidified to “pH” 2-3 by addition of concentrated HCl solution and extracted with EtOAc. The combined organic phases were washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The residue was washed with methanol to give the title compound (660 mg).

reactant | racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-methoxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.8 mmol, 1.2 g | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)OC)CC)=O)C1=C(C=CC(=C1)F)C)=O | C32H31BrClFN2O5
reactant | LiOH.H2O | 36 mmol, 1.5 g | O[Li].O
reactant | H2O | 3 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 660 mg | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)O)CC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29BrClFN2O5
